US06566557B2
A solution of 3,4-dimethoxyphenylpropane (1 g) in 40 mL of dry dioxane was placed in 100 ml round bottom flask. To this was added a catalytic amount of para-toluenesulphonic acid (0.04 to 0.1 g and 4.5 g of DDQ and finally started refluxing the mixture at 50 to 140° C. for 7 to 16 hrs. The mixture was cooled and the precipitated DDQH2 was filtered and further washed with chloroform. The filtrate and washings were combined and evaporated under reduced pressure. The product was taken in ether (50 ml) and the ether layer was washed with aqueous NaOH (15%, 2×10 ml). The combined aqueous layers are further extracted with ether (3×10 ml). The ether layers were combined and washed with saturated sodium chloride (3×10 ml), dried over anhydrous sodium sulphate and filtered. The solvent was removed to afford a crude yellow liquid which was loaded on silica gel column and the column was eluted with hexane (40-50 ml) and then with an increasing amount of hexane/ethyl acetate (9:1 to 1:9). The fractions were monitored on TLC plate and the desired fractions were combined and solvent was removed under vacuum to afford 3,4-dimethoxycinnamaldehyde in 79% yield as a yellow solid; mp 74-77° C. ; 1H NMR δ 9.67 (1H, d, H-3′), 7.43 (1H, d, H-1′), 7.15 (1H, d, H-5), 7.08 (1H, s, H-3), 6.91 (1H, d, H-3), 6.61 (1H, dd, H-2′), 3.94 (s, 3H, 3-OCH3), 3.93 (s, 3H, 4-OCH3). The remaining physical and spectral data was found similar as reported.

reactant | 3,4-dimethoxyphenylpropane | 1 g | COC=1C=C(C=CC1OC)CCC | C11H16O2
reactant | para-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | DDQ | 4.5 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 3,4-dimethoxycinnamaldehyde | 79% yield | COC=1C=C(C=CC=O)C=CC1OC | C11H12O3
